US04849540
3,3,3-Trinitropropyl Pentafluorothioacetate
A mixture of 0.57 g (0.003 mole) of pentafluorothioacetic acid, 1.2 g (0.006 mole) of 3,3,3-trinitropropanol and 0.3 ml of concentrated sulfuric acid in 10 ml of 1,2-dichloroethane was stirred at reflux temperature for 24 hr in a flask with a reverse Dean Stark trap attached. The reaction mixture was cooled and the organic layer was decanted from the insoluble sulfuric acid. After the removal of volatiles from the organic layer, the residue (oil) was chromatographed on silica gel 40 using methylene chloride as eluent to give 0.99 g (89%) of product, mp 32° C.;

reactant | pentafluorothioacetic acid | 0.003 mole, 0.57 g | FS(=C(C(F)(F)F)O)F | C2HF5OS
reactant | 3,3,3-trinitropropanol | 0.006 mole, 1.2 g | [N+](=O)([O-])C(CCO)([N+](=O)[O-])[N+](=O)[O-] | C3H5N3O7
reactant | sulfuric acid | 0.3 ml | S(O)(O)(=O)=O | H2O4S
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | 3,3,3-Trinitropropyl Pentafluorothioacetate | 0.99 g, 89% | FS(=C(C(F)(F)F)OCCC([N+](=O)[O-])([N+](=O)[O-])[N+](=O)[O-])F | C5H4F5N3O7S
